US07307075B2
4-[3-(4-Butylpiperidin-1-yl)propyl]-6,8-dichloro-7-methyl-4H-benzo[1,4]oxazin-3-one (81MF2225F)
6,8-Dichloro-4-(3-chloropropyl)-7-methyl-4H-benzo[1,4]oxazin-3-one (81MF2225b), (2.44 g, 7.92 mmol), K2CO3 (2.19 g, 15.84 mmol), NaI (2.37 g, 15.84 mmol) and 4-butylpiperidine (1.172 g, 8.3 mmol) were mixed according to GP11. CC (SiO2; Heptane/EtOAc 10:1-4) gave the title compound (81MF2225F) (1.55 g, 47%). 1H NMR (CDCl3) δ 7.11 (s, 1H), 4.65 (s, 2H), 3.93 (t, 2H), 2.86, (d, 2H), 2.41 (s, 3H), 2.33 (t, 2H), 1.92-1.77 (m, 4H), 1.65 (d, 2H), 1.31-1.19 (m, 9H), 0.88 (t, 3H); 13C NMR (CDCl3) δ 163.5, 140.5, 129.9, 128.1, 123.7, 114.0, 67.9, 55.8, 54.4, 40.1, 36.4, 36.0, 32.6, 29.2, 24.8, 23.1, 17.2, 14.2.

reactant | 6,8-Dichloro-4-(3-chloropropyl)-7-methyl-4H-benzo[1,4]oxazin-3-one | 7.92 mmol, 2.44 g | ClC=1C(=C(C2=C(N(C(CO2)=O)CCCCl)C1)Cl)C | C12H12Cl3NO2
reactant | K2CO3 | 15.84 mmol, 2.19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 15.84 mmol, 2.37 g | [Na+].[I-]
reactant | 4-butylpiperidine | 8.3 mmol, 1.172 g | C(CCC)C1CCNCC1 | C9H19N
solvent | Heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-[3-(4-Butylpiperidin-1-yl)propyl]-6,8-dichloro-7-methyl-4H-benzo[1,4]oxazin-3-one | 1.55 g, 47% | C(CCC)C1CCN(CC1)CCCN1C(COC2=C1C=C(C(=C2Cl)C)Cl)=O | C21H30Cl2N2O2
